US07067540B2
3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-prop-2-ynylpyridin-2(1H)-one
Bromination of 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-prop-2-ynylpyridin-2(1H)-one (500 mg, 1.67 mmol) with NBS (300 mg, 1.67 mmol) was carried out in the manner described above to give 350 mg (57%) of the desired compound. 1H-NMR (DMSOd6/300 MHz) δ 7.67 (app q, J=9.0 hz, 1H), 7.36 (app dt, J=10.5, 2.4 hz, 1H); 7.23-7.16 (m, 1H); 6.60 (s, 1H), 5.29 (s, 2H), 4.90 (d, J=2.4, Hz, 1H), 3.35 (s, 3H), 3.32 (s, 1H), 2.53 (s, 3H); ES-HRMS m/z 368.0107 (M+H calcd for C16H13BrF2NO2=368.0098).

reactant | 4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-prop-2-ynylpyridin-2(1H)-one | 1.67 mmol, 500 mg | FC1=C(COC2=CC(N(C(=C2)C)CC#C)=O)C=CC(=C1)F | C16H13F2NO2
reactant | NBS | 1.67 mmol, 300 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-1-prop-2-ynylpyridin-2(1H)-one | 350 mg, 57% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)CC#C)=O | C16H12BrF2NO2
